### PR TITLE
feat(Algebra/IndEtale): fill `trans` sorry

### PR DESCRIPTION
**Pull request by chrisflav**
## Summary

Fills the `Algebra.IndEtale.trans` sorry in `Proetale/Algebra/IndEtale.lean`: a composition of two ind-étale algebras is ind-étale (Stacks [0BSI](https://stacks.math.columbia.edu/tag/0BSI)).

The proof factors through a private helper `of_indEtale_etale` showing `ind(étale) ∘ étale ⊆ ind(étale)`:

- Use `MorphismProperty.PreIndSpreads.exists_isPushout_of_isFiltered` to descend the étale map `S → A` to a finite stage `j₀` of the colimit presentation of `R → S`.
- Build a refined diagram `D' : Under j₀ ⥤ CommRingCat` by pushing out along `f' : D.obj j₀ ⟶ T'`, whose colimit is `A`.
- Each stage `R → D'.obj k` is étale (composition of an étale stage `R → D.obj k.right` with a pushout `D.obj k.right → D'.obj k` of an étale map).

Then `trans` follows: given `R → S` ind-étale and `S → T` ind-étale, write `T = colim D` with each `S → D.obj j` étale; apply `of_indEtale_etale` at each stage to get `R → D.obj j` ind-étale; conclude `R → T` is `ind (ind étale) = ind étale` via `MorphismProperty.ind_ind` and `CommRingCat.etale_le_isFinitelyPresentable`.

A small private helper `iff_ind_etale_algebraMap` bridges `Algebra.IndEtale` and the morphism-level `MorphismProperty.ind CommRingCat.etale`.

Also adds the missing `\leanok` in the proof of `thm:ind-etale-comp` in `blueprint/src/chapters/local-structure.tex`.

Source: ported from the `archon` branch.

## Test plan

- [x] `lake build` succeeds (8592 jobs, no errors or warnings)
- [x] No new `sorry` introduced; only fills the existing `Algebra.IndEtale.trans` sorry
- [x] Downstream files (`Proetale.Algebra.WeaklyEtale`, `Proetale.Algebra.IndWeaklyEtale`, etc.) still build

### CODE REVIEW

File: Proetale/Algebra/IndEtale.lean [hunk 1]
```diff
@@ -45,10 +45,33 @@ lemma iff_ind_etale (R S : Type u) [CommRing R] [CommRing S] [Algebra R S] :
...
+  rw [iff_ind_etale, CommAlgCat.etale_eq, CommRingCat.etale,
+    RingHom.Etale.respectsIso.ind_toMorphismProperty_iff_ind_toObjectProperty]
+
 lemma trans (T : Type u) [CommRing T] [Algebra R T] [Algebra S T] [IsScalarTower R S T]
     [Algebra.IndEtale R S] [Algebra.IndEtale S T] :
-    Algebra.IndEtale R T :=
-  sorry
+    Algebra.IndEtale R T := by
+  rw [iff_ind_etale_algebraMap]
+  obtain ⟨J, hJ, hFilt, D, s₂, t₂, ht₂, hst₂⟩ := (iff_ind_etale_algebraMap S T).mp ‹_›
```
Comment (chrisflav) [inline Proetale/Algebra/IndEtale.lean]: You should be able to use `CategoryTheory.MorphismProperty.IsStableUnderComposition.ind_of_preIndSpreads`, for which you just have to show that `Under R` is finitely accessible for `R : CommRingCat`. The latter should be a separate statement.

**Comment by chrisflav** [comment]
orchestra address review

File: Proetale/Mathlib/Algebra/Category/Ring/Accessible.lean [hunk 2]
```diff
@@ -0,0 +1,28 @@
...
+universe u
+
+open CategoryTheory Limits
+
+namespace CommRingCat
+
+/-- For any `R : CommRingCat.{u}`, the category `Under R` is finitely accessible. -/
+instance isFinitelyAccessibleCategory_under (R : CommRingCat.{u}) :
+    IsFinitelyAccessibleCategory.{u} (Under R) :=
+  sorry
```
Comment (chrisflav) [inline Proetale/Mathlib/Algebra/Category/Ring/Accessible.lean]: Prove this.

**Comment by chrisflav** [comment]
orchestra address review

**Comment by chrisflav** [comment]
orchestra address review

File: Proetale/Mathlib/CategoryTheory/MorphismProperty/IndSpreads.lean [hunk 3]
```diff
@@ -92,15 +92,51 @@ alias exists_isPushout_of_isFiltered_of_hom := IndSpreads.exists_isPushout_of_ho
...
+  let c' : Cocone D' := c'₀.extend hpush.isoPushout.inv
+  let hc' : IsColimit c' :=
+    IsColimit.extendIso _ (isColimitOfPreserves _ (htY.underPost j₀))
+  let s' : (Functor.const (CategoryTheory.Under j₀)).obj X ⟶ D' :=
+    { app k := sX.app k.right ≫ pushout.inl (D.map k.hom) g'
+      naturality k l a := by
+        have hnat := sX.naturality a.right
+        simp only [Functor.const_obj_obj, Functor.const_obj_map, Category.id_comp] at hnat
+        change 𝟙 _ ≫ sX.app l.right ≫ pushout.inl (D.map l.hom) g' =
+          (sX.app k.right ≫ pushout.inl (D.map k.hom) g') ≫ _
```
Comment (chrisflav) [inline Proetale/Mathlib/CategoryTheory/MorphismProperty/IndSpreads.lean]: Instead of `change`, rewrite with the correct API lemma instead.

File: Proetale/Algebra/IndEtale.lean [hunk 4]
```diff
@@ -45,10 +46,26 @@ lemma iff_ind_etale (R S : Type u) [CommRing R] [CommRing S] [Algebra R S] :
...
 lemma trans (T : Type u) [CommRing T] [Algebra R T] [Algebra S T] [IsScalarTower R S T]
     [Algebra.IndEtale R S] [Algebra.IndEtale S T] :
-    Algebra.IndEtale R T :=
-  sorry
+    Algebra.IndEtale R T := by
+  rw [iff_ind_etale_algebraMap]
+  have hRS := (iff_ind_etale_algebraMap R S).mp ‹_›
+  have hST := (iff_ind_etale_algebraMap S T).mp ‹_›
+  have inst : (MorphismProperty.ind.{u} CommRingCat.etale).IsStableUnderComposition :=
+    .ind_of_preIndSpreads CommRingCat.etale_le_isFinitelyPresentable.{u}
```
Comment (chrisflav) [inline Proetale/Algebra/IndEtale.lean]: Make this a separate instance.

File: Proetale/Algebra/IndEtale.lean [hunk 5]
```diff
@@ -45,10 +46,26 @@ lemma iff_ind_etale (R S : Type u) [CommRing R] [CommRing S] [Algebra R S] :
     Algebra.IndEtale R S ↔ ObjectProperty.ind.{u} (CommAlgCat.etale R) (.of R S) :=
   Algebra.indEtale_iff R S
 
+/-- `Algebra.IndEtale` in terms of `MorphismProperty.ind` on the underlying ring map. -/
+private lemma iff_ind_etale_algebraMap :
```
Comment (chrisflav) [inline Proetale/Algebra/IndEtale.lean]: This should not exist, it already exists in a similar form for `RingHom.IndEtale`. Change the proof of `trans` instead: First prove `RingHom.IndEtale.comp` and then deduce `Algebra.IndEtale.trans` from that.

File: Proetale/Mathlib/CategoryTheory/MorphismProperty/IndSpreads.lean [hunk 6]
```diff
@@ -92,15 +92,51 @@ alias exists_isPushout_of_isFiltered_of_hom := IndSpreads.exists_isPushout_of_ho
...
+        rw [pushout.inl_desc, ← Category.assoc, ← hnat] }
+  refine ⟨CategoryTheory.Under j₀, inferInstance, inferInstance,
+      D', s', c'.ι, hc', fun k ↦ ⟨?_, ?_⟩⟩
+  · exact P.comp_mem _ _ (hData k.right).1 (P.pushout_inl _ _ hg')
+  · have hkey : pushout.inl (D.map k.hom) g' ≫ c'₀.ι.app k =
+        tY.app k.right ≫ pushout.inl ((Cocone.mk _ tY).ι.app j₀) g' := by
+      dsimp only [c'₀, Functor.mapCocone_ι_app, Cocone.underPost_ι_app, Functor.comp_map,
+        CategoryTheory.Under.forget_map, CategoryTheory.Under.pushout_map,
+        CategoryTheory.Under.post_obj,
+        CategoryTheory.Under.mk_hom, CategoryTheory.Under.homMk_right, Cocone.underPost_pt]
```
Comment (chrisflav) [inline Proetale/Mathlib/CategoryTheory/MorphismProperty/IndSpreads.lean]: Don't squeeze `dsimp` calls.

**Comment by chrisflav** [comment]
orchestra address review

**Comment by chrisflav** [comment]
orchestra address review: Also remove the other `change`s.

File: Proetale/Mathlib/CategoryTheory/MorphismProperty/IndSpreads.lean [hunk 7]
```diff
@@ -92,15 +92,46 @@ alias exists_isPushout_of_isFiltered_of_hom := IndSpreads.exists_isPushout_of_ho
...
-instance [P.IsMultiplicative] [PreIndSpreads.{w} P] : (ind.{w} P).IsMultiplicative where
+/-- If `f : X ⟶ Y` is `ind P` and `g : Y ⟶ Z` satisfies `P`, then `f ≫ g : X ⟶ Z` is `ind P`.
+
+This is the key step in showing that `ind P` is stable under composition: it descends `g` to a
+finite stage of the filtered colimit presentation of `Y` via `PreIndSpreads`, forms pushouts to
+build a presentation of `Z`, and checks that each stage is in `P`. -/
+lemma ind_comp_mem {P : MorphismProperty C} [P.IsStableUnderComposition]
+    [P.IsStableUnderCobaseChange] [HasPushouts C] [PreIndSpreads.{w} P]
+    {X Y Z : C} {f : X ⟶ Y} (hf : ind.{w} P f) {g : Y ⟶ Z} (hg : P g) :
+    ind.{w} P (f ≫ g) := by
```
Comment (chrisflav) [inline Proetale/Mathlib/CategoryTheory/MorphismProperty/IndSpreads.lean:103]: Deduce from this that `ind P` is stable under composition if additionally the assumptions of `MorphismProperty.ind_ind` are satisfied.

**Comment by chrisflav** [comment]
orchestra address review

File: Proetale/Algebra/IndEtale.lean [hunk 8]
```diff
@@ -29,6 +30,9 @@ lemma CommAlgCat.etale_eq : etale R = RingHom.toObjectProperty RingHom.Etale R :
   ext S
   exact RingHom.etale_algebraMap.symm
 
+instance : (MorphismProperty.ind.{u} CommRingCat.etale.{u}).IsStableUnderComposition :=
+  .ind_of_preIndSpreads CommRingCat.etale_le_isFinitelyPresentable.{u}
```
Comment (chrisflav) [inline Proetale/Algebra/IndEtale.lean]: Use `IsStableUnderComposition.ind_of_le_isFinitelyPresentable` here instead and remove the import for the `Ring.Accessible` file.

**Comment by chrisflav** [comment]
orchestra address review
